US07745452B2
To a −78° C. solution of tert-butyl (4-chlorophenyl)carbamate (3.0 g, 13.2 mmol) in 100 ml of THF was added TMEDA (1.53 g, 13.2 mmol) followed by sec-BuLi (21 ml, 32.9 mmol) slowly and dropwise via syringe. The reaction mixture turns bright yellow after about half the s-BuLi was added. The reaction mixture was allowed to stir for 15 min at −78° C. then allowed to warm to about −20° C. (tip of flask in dry-ice bath) for 1 hr, then the reaction mixture was cooled to −78° C. again. The reaction mixture was in now a dull yellow/orange, slightly heterogeneous and 4-bromobenzaldehyde was added dropwise, and stirred for 30 min at −78° C. The reaction mixture was quenched with 100 mL sat NH4Cl (pink fades to yellow), extracted with 150 ml of ether, washed with brine, dried over MgSO4, filtered and concentrated. The crude product was purified by silica gel chromatography using 5-30% EtOAc/hex as the eluent to provide tert-butyl {2-[(4-bromophenyl)(hydroxy)methyl]-4-chlorophenyl}carbamate as a yellow solid. 1HNMR: (400 MHz, CDCl3) δ 7.72 (d, J=8.4 Hz, 1H), 7.48 (d, J=8.4, 1H), 7.40˜7.50 (m, 1H), 7.27 (s, 1H), 7.26 (d, J=8.8 Hz, 2H), 7.02 (d, J=2.0 Hz, 1H), 5.81 (s, 1H), 4.70˜4.90 (m, 1H), 1.43 (s, 9H).

reactant | tert-butyl (4-chlorophenyl)carbamate | 13.2 mmol, 3.0 g | ClC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C11H14ClNO2
reactant | TMEDA | 13.2 mmol, 1.53 g | CN(C)CCN(C)C | C6H16N2
reactant | sec-BuLi | 32.9 mmol, 21 ml | [Li]C(C)CC
reactant | 4-bromobenzaldehyde | BrC1=CC=C(C=O)C=C1 | C7H5BrO
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | dry-ice | C(=O)=O | CO2
product | tert-butyl {2-[(4-bromophenyl)(hydroxy)methyl]-4-chlorophenyl}carbamate | BrC1=CC=C(C=C1)C(C1=C(C=CC(=C1)Cl)NC(OC(C)(C)C)=O)O | C18H19BrClNO3
